data/rdb19/train.csv
rxn,smiles,ea
300,[C:4]([C:5]([C:6]([C:7]([H:18])([H:19])[H:20])([C:8]([H:21])([H:22])[H:23])[C:9](=[O:10])[O:11][C:12]([H:24])([H:25])[H:26])([H:16])[H:17])([H:13])([H:14])[H:15].[O:1]([O:2])[H:3]>>[C:5]([C:6]([C:7]([H:18])([H:19])[H:20])([C:8]([H:21])([H:22])[H:23])[C:9](=[O:10])[O:11][C:12]([H:24])([H:25])[H:26])([H:16])[H:17].[O:1]([O:2][C:4]([H:13])([H:14])[H:15])[H:3],66.39750828401884
4206,[C:16]([C:17]([C:18]([C:19]([H:29])([H:30])[H:31])[C:20](=[O:21])[O:22][C:23]([H:32])([H:33])[H:34])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([H:11])[H:12])([C:7]([H:13])([H:14])[H:15])[C:18]([C:17]([C:16]([H:24])([H:25])[H:26])([H:27])[H:28])([C:19]([H:29])([H:30])[H:31])[C:20](=[O:21])[O:22][C:23]([H:32])([H:33])[H:34])([H:8])([H:9])[H:10],21.728549787017982
4387,[C:16]([C:17]([C:18]([H:19])[N:20]([C:21](=[O:22])[H:29])[H:28])([H:26])[H:27])([H:23])([H:24])[H:25].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([H:11])([H:12])[C:18]([C:17]([C:16]([H:23])([H:24])[H:25])([H:26])[H:27])([H:19])[N:20]([C:21](=[O:22])[H:29])[H:28])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10],9.642145212041214
4209,[C:16]([C:17]([C:18]([C:19]([H:29])([H:30])[H:31])[C:20](=[O:21])[O:22][C:23]([H:32])([H:33])[H:34])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:16]([C:17]([C:18](=[C:19]([H:29])[H:31])[C:20](=[O:21])[O:22][C:23]([H:32])([H:33])[H:34])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([H:11])([H:12])[H:30])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10],31.87896400160389
2026,[C:11]([O:12][C:13](=[O:14])[C:15]([C:16]([H:24])([H:25])[H:26])([C:17]([H:27])([H:28])[H:29])[C:18]([H:19])[H:20])([H:21])([H:22])[H:23].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[N:1]([C:2]([O:3][C:18]([C:15]([C:13]([O:12][C:11]([H:21])([H:22])[H:23])=[O:14])([C:16]([H:24])([H:25])[H:26])[C:17]([H:27])([H:28])[H:29])([H:19])[H:20])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7],26.823734863486607
2470,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:16])([H:17])[H:18])([C:8]([C:9]([H:21])([H:22])[H:23])([H:19])[H:20])[H:15])([H:13])[H:14])([H:10])([H:11])[H:12].[C:24]([O:25][O:26])([H:27])([H:28])[H:29]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:16])([H:17])[H:18])([C:8]([H:19])[H:20])[H:15])([H:13])[H:14])([H:10])([H:11])[H:12].[C:9]([H:21])([H:22])([H:23])[O:26][O:25][C:24]([H:27])([H:28])[H:29],68.07884538098006
1878,[C:15](=[C:16]([N:17]([C:18](=[O:19])[H:24])[H:23])[H:22])([H:20])[H:21].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:15](=[C:16]([N:17][C:18](=[O:19])[H:24])[H:22])([H:20])[H:21].[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10],27.848633894172963
3732,[C:1]([C:2]([C:3]([H:4])([C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])[C:22]([N:21]([C:19]([C:18]([C:17]([H:24])([H:25])[H:26])([H:27])[H:28])([C:20]([H:30])([H:31])[H:32])[H:29])[H:33])([O:23])[H:34])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:17]([C:18]([C:19]([C:20]([H:30])([H:31])[H:32])([N:21][H:33])[H:29])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([H:4])([C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])[C:22](=[O:23])[H:34])([H:10])[H:11])([H:7])([H:8])[H:9],9.900990651221946
2514,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])[H:10])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:20]([C:21]([C:22]([C:23]([H:31])([H:32])[H:33])([C:24]([H:34])([H:35])[H:36])[C:25]([H:37])([H:38])[H:39])([H:29])[H:30])([H:26])([H:27])[H:28]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])([H:10])[H:35])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:20]([C:21]([C:22]([C:23]([H:31])([H:32])[H:33])([C:24]([H:34])[H:36])[C:25]([H:37])([H:38])[H:39])([H:29])[H:30])([H:26])([H:27])[H:28],22.3462772697676
1124,[C:14](=[C:15]([N:16]([C:17](=[O:18])[H:23])[H:22])[H:21])([H:19])[H:20].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11]>>[C:1]([C:2](=[C:3]([H:4])[H:5])[C:6](=[O:7])[O:8][H:13])([H:9])([H:10])[H:11].[H:12][C:14]([C:15]([N:16]([C:17](=[O:18])[H:23])[H:22])[H:21])([H:19])[H:20],27.914801975595765
2436,[C:1]([C:2]([H:3])([H:4])[C:10]([C:11]([H:22])([H:23])[H:24])([O:12][C:13](=[O:14])[C:15]([H:25])([H:26])[H:27])[H:21])([H:5])([H:6])[H:7].[C:8]([C:9]([H:19])[H:20])([H:16])([H:17])[H:18]>>[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([C:11]([H:22])([H:23])[H:24])([O:12][C:13](=[O:14])[C:15]([H:25])([H:26])[H:27])[H:21])([H:19])[H:20])([H:16])([H:17])[H:18],70.1772628033068
